US05663163
To a solution of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (syn isomer) (30 g) in 4N-hydrochloric acid (22.4 ml) was added acetone (120 ml) under stirring at 20° C. The stirring was continued for 10 hours at the same temperature to give crystals, which were collected by filtration and dried to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate hydrochloride (syn isomer) (13.46 g).

reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 30 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOCC | C19H23N9O6S2
reactant | hydrochloric acid | 22.4 ml | Cl | ClH
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[3-amino-2-(2-hydroxyethyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate hydrochloride | 13.46 g | Cl.NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCO)C(=O)[O-])C1=O)=NOCC | InChI=1S/C19H23N9O6S2.ClH/c1-2-34-24-11(14-23-19(21)36-25-14)15(30)22-12-16(31)28-13(18(32)33)9(8-35-17(12)28)7-26-4-3-10(20)27(26)5-6-29;/h3-4,12,17,20,29H,2,5-8H2,1H3,(H4,21,22,23,25,30,32,33);1H/t12-,17-;/m1./s1
